US06946467B2
1-Boc-piperazine (6.8 g, 36 mmol), NaI (2.7 g, 18 mmol), K2CO3 (3.0 g, 21.6 mmol) and a mixture of 2-cyano-4-[2-(benzenesulfonyloxy)ethyl]pyridine and 2-cyano-4-(2-chloroethyl)pyridine (2:1, 4.5 g, 18 mmol) was dissolved in DMF (50 mL) and heated to 80° C. overnight. The mixture was allowed to cool to room temperature and diluted with water and ethyl acetate. The layers were separated and the water layer extracted with ethyl acetate. The organic layers were combined, washed with water and brine, dried (Na2SO4), filtered and concentrated under vacuum to proved a dark oil (6.0 g). The crude product was purified by chromatography (SiO2, 1000:10:1-200:10:1 CH2Cl2:methanol:concentrated ammonium hydroxide) to provide 1-Boc-4-[2-(2-cyanopyridin-4-yl)ethyl]piperazine (4.0 g, 70%).

reactant | 1-Boc-piperazine | 36 mmol, 6.8 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaI | 18 mmol, 2.7 g | [Na+].[I-]
reactant | K2CO3 | 21.6 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-cyano-4-[2-(benzenesulfonyloxy)ethyl]pyridine | C(#N)C1=NC=CC(=C1)CCOS(=O)(=O)C1=CC=CC=C1 | C14H12N2O3S
reactant | 2-cyano-4-(2-chloroethyl)pyridine | 18 mmol, 4.5 g | C(#N)C1=NC=CC(=C1)CCCl | C8H7ClN2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Boc-4-[2-(2-cyanopyridin-4-yl)ethyl]piperazine | 4.0 g, 70% | C(=O)(OC(C)(C)C)N1CCN(CC1)CCC1=CC(=NC=C1)C#N | C17H24N4O2
